US04294841
According to the method of Corvaisier (Bull. Soc. Chim. Fr. 1962, 528) 15 ml of an 11 N aqueous sodium hydroxide solution are added to a solution of 24 g of 2-hydroxyacetophenone and 21 g of pyridine-4-carbaldehyde in 130 ml of absolute ethanol maintained an ambient temperature. An abundant yellow precipitate forms at first which then gradually dissolves. After two hours at ambient temperature the mixture is adjusted to pH 1 by means of hydrochloric acid. The yellow precipitate obtained is filtered, washed with water and dried. 27 g of 1-(2-hydroxyphenyl) 3-(4-pyridyl) 3-hydroxy 1-propanone melting at 150° C. are obtained.

reactant | sodium hydroxide | 11 N | [OH-].[Na+]
reactant | 2-hydroxyacetophenone | 24 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | pyridine-4-carbaldehyde | 21 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 1-(2-hydroxyphenyl) 3-(4-pyridyl) 3-hydroxy 1-propanone | 27 g | OC1=C(C=CC=C1)C(CC(O)C1=CC=NC=C1)=O | C14H13NO3
